US05578610
To a solution of 50 mg of 4-(4-iodo-1-oxobutyl)-α,α-dimethylphenylacetic acid, prepared in accordance with Example 3, in 3 mL of methanol was added 50 mg of NaBH4. The mixture was stirred for 30 minutes, acidified with 2N HCl, and the methanol removed in vacuo. The concentrate was extracted with EtOAc. The organics were dried over Na2SO4, filtered, and concentrated to afford 40 mg of 4-(1-hydroxy-4-iodobutyl)-α,α-dimethylphenylacetic acid.

reactant | 4-(4-iodo-1-oxobutyl)-α,α-dimethylphenylacetic acid | 50 mg | ICCCC(=O)C1=CC=C(C=C1)C(C(=O)O)(C)C | C14H17IO3
reactant | NaBH4 | 50 mg | [BH4-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 4-(1-hydroxy-4-iodobutyl)-α,α-dimethylphenylacetic acid | 40 mg | OC(CCCI)C1=CC=C(C=C1)C(C(=O)O)(C)C | C14H19IO3
